US09238639B2
D) ((2,6-Dimethylpyridin-3-yl)methyl)(triphenyl)phosphonium chloride
A mixture of triphenylphosphine (885 mg), 3-(chloromethyl)-2,6-dimethylpyridine (500 mg) and CH3CN (20 mL) was refluxed for 24 h. The mixture was concentrated in vacuo. The residual solid was washed with IPE to give the title compound (1060 mg).

reactant | triphenylphosphine | 885 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(chloromethyl)-2,6-dimethylpyridine | 500 mg | ClCC=1C(=NC(=CC1)C)C | C8H10ClN
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | ((2,6-Dimethylpyridin-3-yl)methyl)(triphenyl)phosphonium chloride | 1060 mg | [Cl-].CC1=NC(=CC=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C26H25NP.ClH/c1-21-18-19-23(22(2)27-21)20-28(24-12-6-3-7-13-24,25-14-8-4-9-15-25)26-16-10-5-11-17-26;/h3-19H,20H2,1-2H3;1H/q+1;/p-1
